US05288871
5-Bromomethyl-benzene-1,3-diol dibenzoate
The synthesis of this compound proceeded in the same fashion as in Example 11 using 24.93 g (0.075 mol) of 5-methyl-benzene-1,3-diol dibenzoate, a catalytic amount of 2,2'-azobisisobutyronitrile and 13.35 g (0.075 mol) of N-bromosuccinimide. Recrystallization of the crude material from ethyl acetate gave a product (m.p. 123°-126° C.) which was used directly in the next step.

reactant | 5-methyl-benzene-1,3-diol dibenzoate | 0.075 mol, 24.93 g | C(C1=CC=CC=C1)(=O)OC1=CC(=CC(=C1)C)OC(C1=CC=CC=C1)=O | C21H16O4
reactant | 2,2'-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.075 mol, 13.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-Bromomethyl-benzene-1,3-diol dibenzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=CC(=C1)CBr)OC(C1=CC=CC=C1)=O | C21H15BrO4
